US09359362B2
Ethyl (rac)-7-(4-cyanophenyl)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate
Ethyl 7-(4-cyanophenyl)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate (50 mg, 0.11 mmol), 3-(trifluoromethyl)phenylboronic acid (63 mg, 0.33 mmol, 3 eq.), anhydrous copper(II) acetate (60 mg, 0.33 mmol, 3 eq.) and molecular sieve (50 mg, 4 Å) were initially charged. Under an atmosphere of argon protective gas, abs. dichloromethane (2.5 ml), pyridine (71 μl, 0.88 mmol) and triethylamine (46 μl, 0.33 mmol, 3 eq.) were added. After 12 h of stirring, more 3-(trifluoromethyl)phenylboronic acid (21 mg, 0.11 mmol, 1 eq.), anhydrous copper(II) acetate (20 mg, 0.11 mmol, 1 eq.) and pyridine (36 μl, 0.44 mmol) were added. After a further 24 h of stirring, the mixture was filtered through kieselguhr, the residue was washed with dichloromethane and methanol and the filtrate was concentrated under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (23.3 mg, 35% of theory).

reactant | Ethyl 7-(4-cyanophenyl)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidine-6-carboxylate | 0.11 mmol, 50 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)N2C(C1=CC=CC=C1C2=O)=O)C)C(=O)OCC | C24H18N6O4
reactant | 3-(trifluoromethyl)phenylboronic acid | 0.33 mmol, 63 mg, 3 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 0.88 mmol, 71 μl | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 0.33 mmol, 46 μl, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)phenylboronic acid | 0.11 mmol, 21 mg, 1 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 0.44 mmol, 36 μl | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) acetate | 0.33 mmol, 60 mg, 3 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 0.11 mmol, 20 mg, 1 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | Ethyl (rac)-7-(4-cyanophenyl)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=C(N2)N2C(C1=CC=CC=C1C2=O)=O)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)OCC | C31H21F3N6O4
